US07129238B2
(RS)-(3-Hydroxy-4-methoxy-phenyl)-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure C to give (RS)-N-(4-cyano-benzyl)-2-(3-hydroxy-4-methoxy-phenyl)-2-methoxy-acetamide. White foam.

reactant | (RS)-(3-Hydroxy-4-methoxy-phenyl)-methoxy-acetic acid | OC=1C=C(C=CC1OC)C(C(=O)O)OC | C10H12O5
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-(3-hydroxy-4-methoxy-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=CC(=C(C=C2)OC)O)=O)C=C1 | C18H18N2O4
